US04435567
A solution of 0.5 g aminopyridin and 0.7 ml triethylamine with 5 ml acetone was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 15 ml aceton, under stirring. The reaction mixture was stirred for 45 minutes at room temperature, then diluted with 100 ml water. The acetone was distilled off, the residue was cooled, and the precipitated solid product was filtered, washed with water and dried. 0.6 g 1-phenyl-3-(2-pyridyl)-urea was obtained with a melting point of 185°-186° C.

reactant | aminopyridin | 0.5 g | NC1=NC=CC=C1 | C5H6N2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | aceton | 15 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 1-phenyl-3-(2-pyridyl)-urea | 0.6 g | C1(=CC=CC=C1)NC(=O)NC1=NC=CC=C1 | C12H11N3O
